US07566788B2
N-{2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide
2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-amine (440 mg, 1.37 mmol) and DMAP (165 mg, 1.37 mmol) were dissolved in 50 mL of DCM. Ethanesulfonyl chloride (0.170 mL, 1.78 mmol) was added dropwise and the solution was stirred at rt for 2.5 h. The solution washed with saturated aqueous NaHCO3 solution, saturated aqueous NaCl solution and dried over anhydrous Na2SO4. The product was purified by silica gel flash chromatography using EtOAc as eluent. The fractions were concentrated and the residue was dissolved in 25 mL of MeOH. TFA (0.155 mL, 2.06 mmol) was added dropwise and the solution was stirred at rt for 30 min. The solvent was evaporated and the product was precipitated in ether affording the title compound as its corresponding TFA salt. Yield: 565 mg (78%). 1H NMR (400 MHz, METHANOL-D4) δ 1.29 (t, J=7.42 Hz, 3H), 1.48-1.60 (m, 2H), 1.64 (s, 9H), 1.66-1.72 (m, 2H), 1.73-1.82 (m, 2H), 1.99-2.09 (m, 2H), 2.18-2.28 (m, 1H), 3.11 (m, 2H), 4.50 (d, J=7.62 Hz, 2H), 7.38 (dd, J=9.08, 2.05 Hz, 1H), 7.72 (d, J=2.15 Hz, 1H), 7.85 (d, J=8.98 Hz, 1H); MS (ESI) (M+H)+ 414.0.

reactant | 2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-amine | 1.37 mmol, 440 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)N | C18H25F2N3
reactant | Ethanesulfonyl chloride | 1.78 mmol, 0.170 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | TFA | 2.06 mmol, 0.155 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | DMAP | 1.37 mmol, 165 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-{2-tert-Butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}ethanesulfonamide | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)NS(=O)(=O)CC | C20H29F2N3O2S
